US05270322
a) 2-n-Propyl-3-ethoxycarbonyl-8-methyl-imidazo[1,2-a]-pyridine
2.3 g (11.9 mMol) of ethyl 2-chloro-3-oxo-hexane carboxylate and 2.6 g (23.8 mMol) of 2-amino-3-picoline are dissolved in 10 ml of ethyleneglycol-dimethylether and refluxed for 3 days. Then the solvent is evaporated off in vacuo and the residue is taken up in water/ethyl acetate 1:1. After the extraction the organic phase is separated off, washed with saturated saline solution, dried over magnesium sulphate and evaporated down. The residue is purified over a silica gel column (particle size: 0.063 to 0.02 mm), using as eluant mixtures of petroleum ether/ethyl acetate of increasing polarity (85:15, 80:20 and 1:1). The uniform fractions are evaporated down in vacuo.

reactant | ethyl 2-chloro-3-oxo-hexane carboxylate | 11.9 mMol, 2.3 g | ClC(CC(=O)OCC)C(CCC)=O | C9H15ClO3
reactant | 2-amino-3-picoline | 23.8 mMol, 2.6 g | NC1=NC=CC=C1C | C6H8N2
solvent | ethyleneglycol dimethylether | 10 ml | C(CO)O.COC
product | 2-n-Propyl-3-ethoxycarbonyl-8-methyl-imidazo[1,2-a]-pyridine | C(CC)C=1N=C2N(C=CC=C2C)C1C(=O)OCC | C14H18N2O2
